US07309701B2
Working as in example 13 for the preparation of ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate, but starting with 1 g of 6-[4-(benzyloxy)phenyl]-3-oxo-2,3,4,5-tetrahydropyridazine-4-carboxylic acid, 100 cm3 of N,N-dimethylformamide, 0.523 g of 1-hydroxybenzotriazole, 0.56 cm3 of 2,4-dichlorobenzylamine, 1.1 cm3 of N,N-diisopropylethylamine and 1.47 g of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, 1.02 g of N-(2,4-dichlorobenzyl)-3-oxo-6-[4-(benzyloxy)phenyl]-2,3-dihydropyridazine-4-carboxamide were obtained in the form of a yellow solid melting at 225° C.

reactant | ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate | O=C1NN=C(C=C1C(=O)NCCC(=O)OCC)C1=CC=NC=C1 | C15H16N4O4
reactant | 6-[4-(benzyloxy)phenyl]-3-oxo-2,3,4,5-tetrahydropyridazine-4-carboxylic acid | 1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1CC(C(NN1)=O)C(=O)O | C18H16N2O4
reactant | 1-hydroxybenzotriazole | 0.523 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2,4-dichlorobenzylamine | 0.56 cm3 | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | N,N-diisopropylethylamine | 1.1 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.47 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 100 cm3 | CN(C=O)C | C3H7NO
product | N-(2,4-dichlorobenzyl)-3-oxo-6-[4-(benzyloxy)phenyl]-2,3-dihydropyridazine-4-carboxamide | 1.02 g | ClC1=C(CNC(=O)C=2C(NN=C(C2)C2=CC=C(C=C2)OCC2=CC=CC=C2)=O)C=CC(=C1)Cl | C25H19Cl2N3O3
